US06897306B2
Preparation 119: tert-butyl (3R,5Z)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}-5-hexenoate
A suspension of (cyclobutylmethyl)(triphenyl)phosphonium bromide (Preparation 122) (680 mg, 1.65 mmol) in anhydrous tetrahydrofuran (13 ml), under a nitrogen atmosphere, at 0° C., was treated with sodium bis(trimethylsilyl)amide 1M in tetrahydrofuran (1.65 ml, 1.65 mmol) over a period of 5 minutes. The bright orange mixture was stirred at 0° C. for 1 hour. A solution of tert-butyl (3R)-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}-5-oxopentanoate (Preparation 118) (428 mg, 1.38 mmol) in toluene (4 ml) was added to the mixture and stirred at 0° C. for 30 minutes and allowed to warm to room temperature for a further 30 minutes. Water (2 ml) was added and the solvents were removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with dilute aqueous of potassium sodium tartrate solution and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a solvent gradient of 9:1 (hexane:ethyl acetate) gradually changing to 1:1 (hexane:ethyl acetate) to afford the title compound as a colourless oil (282 mg).

reactant | (cyclobutylmethyl)(triphenyl)phosphonium bromide | 1.65 mmol, 680 mg | [Br-].C1(CCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl (3R)-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}-5-oxopentanoate | 1.38 mmol, 428 mg | CN(C(=O)C=1N=C(OC1)[C@@H](CC(=O)OC(C)(C)C)CC=O)C | C15H22N2O5
reactant | Water | 2 ml | O | H2O
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1.65 mmol, 1.65 ml | O1CCCC1 | C4H8O
product | tert-butyl (3R,5Z)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}-5-hexenoate | 282 mg | C1(CCC1)\C=C/C[C@H](CC(=O)OC(C)(C)C)C=1OC=C(N1)C(=O)N(C)C | C20H30N2O4
